* Optical channel LED -> free space -> photodiode (LOS, on-axis Lambertian).
* Parametric distance D [m].  K0 = photocurrent/LED current at D = 1 m.
* Received power ~ 1/D^2.  The propagation delay D/c is a pure phase term for
* a single-frequency channel and does not change the magnitude.
.param D=0.5
.param K0=1e-3
.param K={K0/(D*D)}
* LED modulation current (1 A AC), sensed by a 0 V source
Iled 0 a ac 1
Vs   a 0 0
* photodiode current = K * LED current
Fpd  0 npd Vs {K}
Vpd  npd pd 0
Rpd  pd 0 1e9
Cd   pd 0 1p
.ac dec 100 1M 1G
.end
